US08580762B2
Step 5: Synthesis of 9-((3aR,4R,6R,6aR)-6-(((3-(azidomethyl)cyclobutyl)(methyl)amino)methyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-9H-purin-6-amine
To a solution of (3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)methyl methane sulfonate (150 mg, 0.31 mmol) in DMF (3 ml) was added NaN3 (81 mg, 1.24 mmol). The mixture was heated at 70° C. for 3 h. Water (30 ml) was added and the mixture was extracted with ethyl acetate (20 ml×3). The combined organic layers were dried over Na2SO4 and concentrated. The residue was purified by Prep-TLC (DCM:MeOH=30:1) to obtain the title compound (90 mg, Yield 67%). ESI-MS (m/z): 430.2 [M+1]+.

reactant | (3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)methyl methane sulfonate | 0.31 mmol, 150 mg | CS(=O)(=O)OCC1CC(C1)N(C)C[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)N | C20H30N6O6S
reactant | NaN3 | 1.24 mmol, 81 mg | [N-]=[N+]=[N-].[Na+]
reactant | Water | 30 ml | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 9-((3aR,4R,6R,6aR)-6-(((3-(azidomethyl)cyclobutyl)(methyl)amino)methyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-9H-purin-6-amine | 90 mg, Yield 67% | N(=[N+]=[N-])CC1CC(C1)N(C)C[C@H]1O[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C1=NC=NC(=C1N=C2)N | C19H27N9O3
